US08470810B2
42.1 3-[3-(4-Trifluoromethoxy-benzenesulfonylamino)-phenyl]-pyrrolidine-1-carboxylic acid methyl ester
To a solution of 3-(3-amino-phenyl)-pyrrolidine-1-carboxylic acid methyl ester (500 mg, 2.27 mmol) and triethylamine (500 mg, 4.94 mmol) in THF (20 ml) at 10° C. 4-trifluoromethoxy-benzenesulfonylchloride (600 mg, 2.3 mop was added. The mixture was allowed to come to room temperature and was stirred for 16 h. The mixture was poured into water and extracted three times with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, dried over MgSO4 and evaporated under reduced pressure to give the product as a brown oil (1 g, 99%).

reactant | 3-(3-amino-phenyl)-pyrrolidine-1-carboxylic acid methyl ester | 2.27 mmol, 500 mg | COC(=O)N1CC(CC1)C1=CC(=CC=C1)N | C12H16N2O2
reactant | triethylamine | 4.94 mmol, 500 mg | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethoxy-benzenesulfonylchloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-[3-(4-Trifluoromethoxy-benzenesulfonylamino)-phenyl]-pyrrolidine-1-carboxylic acid methyl ester | 1 g, 99% | COC(=O)N1CC(CC1)C1=CC(=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C19H19F3N2O5S
